US05495026
[Synthesis of vitamin E acetate (tocopherol acetate)]
A pressure-proof reaction vessel equipped with a stirrer was charged with 7.0 g (0.036 mole) of 4-acetoxy-2,3,5-trimethylphenol, 50.0 g (0.18 mole) of 2,6,10,14-tetramethyl-1-pentadecene, 1.4 g (0.045 mole) of 80% paraformaldehyde, 0.5 g (0.0036 mole) of dibutylamine and 1.1 g (0.018 mole) of acetic acid, and the mixture was reacted, with stirring, at 170° C. for 4 hours.

reactant | 4-acetoxy-2,3,5-trimethylphenol | 0.036 mole, 7.0 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
reactant | 2,6,10,14-tetramethyl-1-pentadecene | 0.18 mole, 50.0 g | CC(=C)CCCC(CCCC(CCCC(C)C)C)C | C19H38
reactant | paraformaldehyde | 0.045 mole, 1.4 g | C=O | CH2O
reactant | dibutylamine | 0.0036 mole, 0.5 g | C(CCC)NCCCC | C8H19N
reactant | acetic acid | 0.018 mole, 1.1 g | C(C)(=O)O | C2H4O2
product | vitamin E acetate | CC1=C2C(=C(C(=C1C)OC(=O)C)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C31H52O3
